US07683064B2
2-[3-Bromo-2-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-6-cyclopropyl-2H-isoquinolin-1-one (2.85 g, 5.88 mmol), potassium acetate (1.17 g, 11.9 mmol), bis(pinacolato)diboron (3.01 g 11.9 mmol), and 20 mL of dioxane were charged into a 40 mL reaction vial fitted with a septum and nitrogen inlet. Heated and stirred until all the bis(pinacolato)diboron had dissolved. Sonicated the mixture for 5 min while it cooled down to room temperature. Sparged the mixture for 15 min with nitrogen. Added the catalyst solution prepared above via syringe. Stirred reaction mixture at 80° for 23 hr. Added 126 mg tris(dibenzylidineacetone)dipalladium(0) after 7 hr. Cooled the reaction mixture to room temp and filtered to remove solids. Removed the solvent from the filtrate in vacuo. Dissolved the residue in 100 mL Et2O and washed with 50 mL water and 50 mL brine. Dried the solution over MgSO4 and concentrated in vacuo. Purified the residue by flash chromatography (gradient elution, 0 to 25% EtOAc/hexane). Recrystallized from hexane to obtain 2-[2-(tert-Butyl-dimethyl-silanyloxymethyl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-6-cyclopropyl-2H-isoquinolin-1-one as an off-white crystalline solid (1.16 g, 2.18 mmol). MS (ESI) 532 (M+H)+.

reactant | 2-[3-Bromo-2-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-6-cyclopropyl-2H-isoquinolin-1-one | 5.88 mmol, 2.85 g | BrC=1C(=C(C=CC1)N1C(C2=CC=C(C=C2C=C1)C1CC1)=O)C(O[SiH2]C(C)(C)C)(C)C | C25H30BrNO2Si
reactant | potassium acetate | 11.9 mmol, 1.17 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 11.9 mmol, 3.01 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-[2-(tert-Butyl-dimethyl-silanyloxymethyl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-6-cyclopropyl-2H-isoquinolin-1-one | 2.18 mmol, 1.16 g | C(C)(C)(C)[SiH2]OC(C1=C(C=CC=C1B1OC(C(O1)(C)C)(C)C)N1C(C2=CC=C(C=C2C=C1)C1CC1)=O)(C)C | C31H42BNO4Si
